** Name: SimpleTwoStageOpAmp_SimpleOpAmp81_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp81_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=595e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=16e-6
mDiodeTransistorNmos5 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=5e-6 W=237e-6
mDiodeTransistorNmos6 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=5e-6 W=237e-6
mDiodeTransistorPmos7 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=24e-6
mDiodeTransistorPmos8 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos9 out inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=595e-6
mNormalTransistorNmos10 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=5e-6 W=237e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=115e-6
mNormalTransistorNmos12 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=5e-6 W=237e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=84e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=84e-6
mNormalTransistorNmos15 FirstStageYsourceTransconductance inputVoltageBiasXXnXX2 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=77e-6
mNormalTransistorNmos16 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mNormalTransistorPmos17 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=16e-6
mNormalTransistorPmos18 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=43e-6
mNormalTransistorPmos19 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=510e-6
mNormalTransistorPmos20 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=251e-6
mNormalTransistorPmos21 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=251e-6
mNormalTransistorPmos22 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=158e-6
mNormalTransistorPmos23 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=158e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 6.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp81_9

** Expected Performance Values: 
** Gain: 126 dB
** Power consumption: 14.9421 mW
** Area: 8989 (mu_m)^2
** Transit frequency: 15.0171 MHz
** Transit frequency with error factor: 15.0167 MHz
** Slew rate: 16.0124 V/mu_s
** Phase margin: 60.1606°
** CMRR: 146 dB
** VoutMax: 4.25 V
** VoutMin: 0.860001 V
** VcmMax: 5.17001 V
** VcmMin: 1.33001 V


** Expected Currents: 
** NormalTransistorPmos: -42.8569 muA
** NormalTransistorPmos: -16.0649 muA
** NormalTransistorPmos: -101.939 muA
** NormalTransistorPmos: -160.191 muA
** NormalTransistorPmos: -101.939 muA
** NormalTransistorPmos: -160.191 muA
** DiodeTransistorNmos: 101.94 muA
** NormalTransistorNmos: 101.939 muA
** NormalTransistorNmos: 101.94 muA
** DiodeTransistorNmos: 101.939 muA
** NormalTransistorNmos: 116.502 muA
** NormalTransistorNmos: 116.501 muA
** NormalTransistorNmos: 58.2511 muA
** NormalTransistorNmos: 58.2511 muA
** NormalTransistorNmos: 2589.12 muA
** DiodeTransistorNmos: 2589.12 muA
** NormalTransistorPmos: -2589.11 muA
** DiodeTransistorNmos: 42.8561 muA
** NormalTransistorNmos: 42.8551 muA
** DiodeTransistorNmos: 16.0641 muA
** DiodeTransistorNmos: 16.0631 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.48201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.26201  V
** inputVoltageBiasXXnXX2: 1.15801  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.631001  V
** outSourceVoltageBiasXXnXX2: 0.559001  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.563001  V
** innerTransistorStack1Load2: 0.563001  V
** innerTransistorStack2Load2: 0.564001  V
** out1: 1.12801  V
** sourceGCC1: 4.19601  V
** sourceGCC2: 4.19601  V
** sourceTransconductance: 1.91401  V
** inner: 0.631001  V


.END