** Name: SimpleTwoStageOpAmp_SimpleOpAmp82_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp82_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=8e-6 W=32e-6
mDiodeTransistorNmos2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=6e-6 W=29e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=29e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=154e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=71e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=8e-6 W=326e-6
mNormalTransistorNmos8 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=8e-6 W=154e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=61e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=61e-6
mNormalTransistorNmos11 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=547e-6
mNormalTransistorNmos12 outVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=312e-6
mNormalTransistorNmos13 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=29e-6
mNormalTransistorNmos14 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=6e-6 W=29e-6
mNormalTransistorNmos15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=32e-6
mNormalTransistorPmos16 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=598e-6
mNormalTransistorPmos17 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=63e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=24e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=24e-6
mNormalTransistorPmos20 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=63e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp82_1

** Expected Performance Values: 
** Gain: 121 dB
** Power consumption: 9.10601 mW
** Area: 14993 (mu_m)^2
** Transit frequency: 15.125 MHz
** Transit frequency with error factor: 15.1246 MHz
** Slew rate: 17.2645 V/mu_s
** Phase margin: 63.5984°
** CMRR: 143 dB
** VoutMax: 4.64001 V
** VoutMin: 0.650001 V
** VcmMax: 5.04001 V
** VcmMin: 1.36001 V


** Expected Currents: 
** NormalTransistorNmos: 97.5091 muA
** NormalTransistorNmos: 170.739 muA
** NormalTransistorPmos: -33.0209 muA
** NormalTransistorPmos: -56.6099 muA
** NormalTransistorPmos: -33.0229 muA
** NormalTransistorPmos: -56.6119 muA
** DiodeTransistorNmos: 33.0201 muA
** NormalTransistorNmos: 33.0211 muA
** NormalTransistorNmos: 33.0221 muA
** DiodeTransistorNmos: 33.0211 muA
** NormalTransistorNmos: 47.1761 muA
** DiodeTransistorNmos: 47.1771 muA
** NormalTransistorNmos: 23.5881 muA
** NormalTransistorNmos: 23.5881 muA
** NormalTransistorNmos: 1429.7 muA
** NormalTransistorPmos: -1429.69 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -97.5099 muA
** DiodeTransistorPmos: -170.738 muA


** Expected Voltages: 
** ibias: 1.15101  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 1.05201  V
** outSourceVoltageBiasXXnXX1: 0.576001  V
** outVoltageBiasXXpXX1: 3.69401  V
** outVoltageBiasXXpXX2: 4.07101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 0.688001  V
** innerTransistorStack2Load2: 0.688001  V
** out1: 1.25701  V
** sourceGCC1: 4.42901  V
** sourceGCC2: 4.42901  V
** sourceTransconductance: 1.88101  V
** inner: 0.574001  V


.END