** Name: SimpleTwoStageOpAmp_SimpleOpAmp82_3

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp82_3 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=4e-6 W=13e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=130e-6
mDiodeTransistorNmos3 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=7e-6 W=176e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=5e-6 W=176e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=39e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=39e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=141e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=522e-6
mNormalTransistorNmos9 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=5e-6 W=176e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=7e-6 W=176e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=42e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=42e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=130e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=13e-6
mNormalTransistorPmos15 out inputVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=348e-6
mNormalTransistorPmos16 outFirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=180e-6
mNormalTransistorPmos17 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=180e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mNormalTransistorPmos20 SecondStageYinnerStageBias outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=171e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp82_3

** Expected Performance Values: 
** Gain: 128 dB
** Power consumption: 11.8631 mW
** Area: 9139 (mu_m)^2
** Transit frequency: 21.1911 MHz
** Transit frequency with error factor: 21.1907 MHz
** Slew rate: 30.4437 V/mu_s
** Phase margin: 60.1606°
** CMRR: 143 dB
** VoutMax: 3.16001 V
** VoutMin: 0.540001 V
** VcmMax: 4.66001 V
** VcmMin: 1.45001 V


** Expected Currents: 
** NormalTransistorNmos: 395.982 muA
** NormalTransistorPmos: -72.6749 muA
** NormalTransistorPmos: -121.839 muA
** NormalTransistorPmos: -72.6749 muA
** NormalTransistorPmos: -121.839 muA
** DiodeTransistorNmos: 72.6741 muA
** NormalTransistorNmos: 72.6731 muA
** NormalTransistorNmos: 72.6741 muA
** DiodeTransistorNmos: 72.6731 muA
** NormalTransistorNmos: 98.3321 muA
** DiodeTransistorNmos: 98.3331 muA
** NormalTransistorNmos: 49.1661 muA
** NormalTransistorNmos: 49.1661 muA
** NormalTransistorNmos: 1722.99 muA
** NormalTransistorPmos: -1722.98 muA
** NormalTransistorPmos: -1722.98 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -395.981 muA
** DiodeTransistorPmos: -395.981 muA


** Expected Voltages: 
** ibias: 1.18901  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 2.37201  V
** out: 2.5  V
** outFirstStage: 0.945001  V
** outSourceVoltageBiasXXnXX1: 0.595001  V
** outSourceVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 0.589001  V
** innerTransistorStack2Load2: 0.589001  V
** out1: 1.15001  V
** sourceGCC1: 3.08601  V
** sourceGCC2: 3.08601  V
** sourceTransconductance: 1.83101  V
** innerStageBias: 3.46001  V
** inner: 0.593001  V


.END