** Name: SimpleTwoStageOpAmp_SimpleOpAmp82_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp82_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=4e-6 W=444e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=30e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=99e-6
mDiodeTransistorNmos4 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mDiodeTransistorNmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=1e-6 W=11e-6
mDiodeTransistorPmos6 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=17e-6
mDiodeTransistorPmos7 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos8 out outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=527e-6
mNormalTransistorNmos9 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=1e-6 W=11e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=44e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=44e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=30e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=444e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=280e-6
mNormalTransistorPmos16 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=54e-6
mNormalTransistorPmos17 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=434e-6
mNormalTransistorPmos18 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=264e-6
mNormalTransistorPmos19 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=54e-6
mNormalTransistorPmos20 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=36e-6
mNormalTransistorPmos21 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=36e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp82_7

** Expected Performance Values: 
** Gain: 123 dB
** Power consumption: 11.0841 mW
** Area: 8959 (mu_m)^2
** Transit frequency: 13.0571 MHz
** Transit frequency with error factor: 13.0569 MHz
** Slew rate: 11.0135 V/mu_s
** Phase margin: 63.0254°
** CMRR: 148 dB
** VoutMax: 4.25 V
** VoutMin: 0.400001 V
** VcmMax: 5.17001 V
** VcmMin: 1.39001 V


** Expected Currents: 
** NormalTransistorPmos: -434.653 muA
** NormalTransistorPmos: -267.662 muA
** NormalTransistorPmos: -21.9309 muA
** NormalTransistorPmos: -36.4989 muA
** NormalTransistorPmos: -21.9309 muA
** NormalTransistorPmos: -36.4989 muA
** DiodeTransistorNmos: 21.9301 muA
** NormalTransistorNmos: 21.9291 muA
** NormalTransistorNmos: 21.9301 muA
** DiodeTransistorNmos: 21.9291 muA
** NormalTransistorNmos: 29.1331 muA
** DiodeTransistorNmos: 29.1321 muA
** NormalTransistorNmos: 14.5671 muA
** NormalTransistorNmos: 14.5671 muA
** NormalTransistorNmos: 1421.48 muA
** NormalTransistorPmos: -1421.47 muA
** DiodeTransistorNmos: 434.654 muA
** NormalTransistorNmos: 434.653 muA
** DiodeTransistorNmos: 267.663 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.45301  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.23801  V
** outSourceVoltageBiasXXnXX1: 0.619001  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** outVoltageBiasXXnXX2: 0.803001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 0.557001  V
** innerTransistorStack2Load2: 0.558001  V
** out1: 1.11601  V
** sourceGCC1: 4.16701  V
** sourceGCC2: 4.16701  V
** sourceTransconductance: 1.94201  V
** inner: 0.617001  V


.END