** Name: SimpleTwoStageOpAmp_SimpleOpAmp82_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp82_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=2e-6 W=9e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX2 outInputVoltageBiasXXnXX2 VoltageBiasXXnXX2Yinner VoltageBiasXXnXX2Yinner nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=153e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=381e-6
mDiodeTransistorNmos5 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=8e-6 W=256e-6
mDiodeTransistorNmos6 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=3e-6 W=256e-6
mDiodeTransistorPmos7 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=21e-6
mDiodeTransistorPmos8 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos9 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=3e-6 W=256e-6
mNormalTransistorNmos10 out outInputVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=1e-6 W=381e-6
mNormalTransistorNmos11 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=8e-6 W=256e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=98e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=98e-6
mNormalTransistorNmos14 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=153e-6
mNormalTransistorNmos15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=9e-6
mNormalTransistorNmos16 VoltageBiasXXnXX2Yinner outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mNormalTransistorPmos17 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=288e-6
mNormalTransistorPmos18 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=241e-6
mNormalTransistorPmos19 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorPmos20 outInputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=62e-6
mNormalTransistorPmos21 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=288e-6
mNormalTransistorPmos22 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=251e-6
mNormalTransistorPmos23 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=251e-6
Capacitor1 outFirstStage out 6.90001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp82_9

** Expected Performance Values: 
** Gain: 121 dB
** Power consumption: 14.9991 mW
** Area: 9856 (mu_m)^2
** Transit frequency: 14.4471 MHz
** Transit frequency with error factor: 14.4473 MHz
** Slew rate: 24.1999 V/mu_s
** Phase margin: 60.1606°
** CMRR: 142 dB
** VoutMax: 4.25 V
** VoutMin: 0.950001 V
** VcmMax: 5.17001 V
** VcmMin: 1.41001 V


** Expected Currents: 
** NormalTransistorPmos: -10.1379 muA
** NormalTransistorPmos: -62.2789 muA
** NormalTransistorPmos: -168.431 muA
** NormalTransistorPmos: -254.482 muA
** NormalTransistorPmos: -168.431 muA
** NormalTransistorPmos: -254.482 muA
** DiodeTransistorNmos: 168.432 muA
** NormalTransistorNmos: 168.431 muA
** NormalTransistorNmos: 168.432 muA
** DiodeTransistorNmos: 168.431 muA
** NormalTransistorNmos: 172.1 muA
** DiodeTransistorNmos: 172.099 muA
** NormalTransistorNmos: 86.0501 muA
** NormalTransistorNmos: 86.0501 muA
** NormalTransistorNmos: 2398.52 muA
** DiodeTransistorNmos: 2398.52 muA
** NormalTransistorPmos: -2398.51 muA
** DiodeTransistorNmos: 10.1371 muA
** NormalTransistorNmos: 10.1361 muA
** DiodeTransistorNmos: 62.2781 muA
** NormalTransistorNmos: 62.2771 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.47101  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.13601  V
** outInputVoltageBiasXXnXX2: 1.35401  V
** outSourceVoltageBiasXXnXX1: 0.568001  V
** outSourceVoltageBiasXXnXX2: 0.677001  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 0.653001  V
** innerTransistorStack2Load2: 0.654001  V
** out1: 1.21101  V
** sourceGCC1: 4.21501  V
** sourceGCC2: 4.21501  V
** sourceTransconductance: 1.82501  V
** inner: 0.568001  V
** inner: 0.677001  V


.END